US04741767
A solution of 2 g of 3-isopropyl-3-methyl-2H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H)-dione in 90 ml of acetone and 10 ml of water is stirred at room temperature for about 16 hours. The solution is subsequently evaporated to dryness and the residue is crystallized from ethyl acetate/n-hexane. There is obtained 1,9b-dihydro-9b-hydroxy-3-isopropyl-3-methyl-2H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H)-dione as colorless crystals, m.p. 151°-153° C.

reactant | 3-isopropyl-3-methyl-2H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H)-dione | 2 g | C(C)(C)C1(C(N=C2N1C(C=1C2=NC=CC1)=O)=O)C | C13H13N3O2
reactant | acetone | 90 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 1,9b-dihydro-9b-hydroxy-3-isopropyl-3-methyl-2H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H)-dione | OC12N(C(C=3C1=NC=CC3)=O)C(C(N2)=O)(C)C(C)C | C13H15N3O3
